US09168248B2
Step 2: 3-Bromo-4,5-dihydroisoxazole-5-carboxamide.
A mixture of ethyl 3-bromo-4,5-dihydroisoxazole-5-carboxylate (6.2 g, 28 mmol) and a solution of 2 M ammonia in MeOH (56 mL) was stirred at room temperature for 1 to 2 hours. Volatile materials were removed in vacuo to give the crude title compound as a white solid.

reactant | ethyl 3-bromo-4,5-dihydroisoxazole-5-carboxylate | 28 mmol, 6.2 g | BrC1=NOC(C1)C(=O)OCC | C6H8BrNO3
reactant | ammonia | 2 M | N | H3N
solvent | MeOH | 56 mL | CO | CH4O
product | 3-Bromo-4,5-dihydroisoxazole-5-carboxamide | BrC1=NOC(C1)C(=O)N | C4H5BrN2O2
